US04045576
5-Methoxy-7-benzoylindolin-2-one.
A suspension of 1.0 g. (4.9 mole) of 5-methoxy-7-carboxyindolin-2-one in 20 ml. of tetrahydrofuran was treated dropwise with 12 ml. of commercially prepared phenyllithium solution (2.3 molar ether: benzene; 0.28 moles). After stirring for two hours the reaction mixture was poured into water and extracted several times with ethyl ether and benzene. The combined extracts were washed with water, dried over sodium sulfate and concentrated using a rotary evaporator to a solid residue which on recrystallization from acetone-water gave 259 mg. (21%) of a yellow powder which melted at 154° C.

reactant | 5-methoxy-7-carboxyindolin-2-one | 4.9 mole | COC=1C=C2CC(NC2=C(C1)C(=O)O)=O | C10H9NO4
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | phenyllithium | 0.28 moles, 2.3 molar | C1(=CC=CC=C1)[Li]
solvent | water | O | H2O
product | 5-Methoxy-7-benzoylindolin-2-one | COC=1C=C2CC(NC2=C(C1)C(C1=CC=CC=C1)=O)=O | C16H13NO3
